US06090424
To a Hobart mixer is added 23% fructose, 57% non dairy creamer, 15% instant soluble coffee, 3.5% carboxymethyl cellulose and 1.5% mocha flavor system. The ingredients are blended into a uniform mixture. An agglomerating solution formed from a 60/40 mixture of sucrose and water (6.5%) is added and the mixture is agitated until the desired agglomerated particles are formed. The resulting agglomerated particles are placed in a vacuum oven at 90° F. (33° C.) and 4.5 TORR (mm HG) to reduce the moisture below 3.5%. The dried agglomerated particles are then sized so as to pass through a 12 mesh screen.

reactant | fructose | OCC(=O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | water | O | H2O
product | sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
